US08536168B2
7-Benzyl-4-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-1H-imidazo[4,5-d]pyridazine
7-Chloro-4-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-1H-imidazo[4,5-d]pyridazine (149 mg, 0.389 mmol), benzyl zinc bromide (9.34 mL, 0.5M in THF, 4.67 mmol), and tetrakis (triphenylphosphine) palladium0 (23 mg, 0.020). The reaction mixture is heated to 80° C. for 32 h. Add H2O and extract product with EtOAc. Wash combined organics with brine and concentrate in vacuo. The residue is purified by flash chromatography on silica gel (60-100% EtOAc/Heptane flushed with 10% MeOH/EtOAc) to afford the title compound (12.1 mg, 7%).

reactant | 7-Chloro-4-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-1H-imidazo[4,5-d]pyridazine | 0.389 mmol, 149 mg | ClC=1N=NC(=C2C1NC=N2)N2CCN(CC2)C2=NC=C(C=C2)C(F)(F)F | C15H13ClF3N7
reactant | benzyl zinc bromide | 4.67 mmol, 0.5M, 9.34 mL | [Br-].C(C1=CC=CC=C1)[Zn+]
catalyst | tetrakis | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Benzyl-4-[4-(5-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-1H-imidazo[4,5-d]pyridazine | 12.1 mg, 7% | C(C1=CC=CC=C1)C=1N=NC(=C2C1NC=N2)N2CCN(CC2)C2=NC=C(C=C2)C(F)(F)F | C22H20F3N7
